### PR TITLE
Add Erdős Problem 1031 (induced regular subgraphs of non-Ramsey graphs), link the formal proof

### LINKED ISSUE #6232: Erdős Problem 1031
### What is the Erdős problem?

https://www.erdosproblems.com/1031

If $G$ is a graph on $n$ vertices which contains no trivial (empty or complete) subgraph on $\geq 10\log n$ many vertices, then must $G$ contain an induced non-trivial regular subgraph on $\gg \log n$ many vertices?

Status: proved (Prömel–Rödl, in the strong form that such graphs contain every graph on $O(\log n)$ vertices as an induced subgraph). A formal proof exists in plby/lean-proofs (`Erdos1031.erdos_1031`, Codex and GPT-5.6 Sol). Related to #82.

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6232.

### What changed
Adds `FormalConjectures/ErdosProblems/1031.lean` with `HasLargeNontrivialRegularInduced G L` (an induced regular subgraph on `≥ L` vertices that is neither empty nor complete) and:
- `erdos_1031` (`research solved`, `answer(True)`): there is `c > 0` such that, for large `n`, every graph on `n` vertices with clique and independence numbers `< 10 log n` contains a non-trivial regular induced subgraph on `≥ c log n` vertices (Prömel–Rödl [PrRo99]). Linked to plby/lean-proofs `Erdos1031.erdos_1031` (Codex and GPT-5.6 Sol; single Mathlib-only file).
- `erdos_1031.variants.promel_rodl`: the strong form (all graphs on `O_c(log n)` vertices appear as induced subgraphs, `H ⊴ G`).
- `erdos_1031.variants.ramsey`: every graph on `n` vertices has a trivial subgraph on `≫ log n` vertices.

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos1031.erdos_1031` → `[propext, Classical.choice, Quot.sound]`. (Note: plby's proof takes `n₀ = 2^(4 · universalDivisor)` with `universalDivisor ≈ 6 · 10^8`, so the kernel needs `LEAN_NAT_MAX_SIZE` raised above the default 128 MB to accept it; with that it checks in a few seconds.)
- Bridge compiled against the new statement on top of a renamed copy, same axioms:

<details>
<summary>Bridge</summary>

```lean
open Filter SimpleGraph

theorem erdos_1031_bridge : type_of% Erdos1031.erdos_1031 := by
  show True ↔ _
  simp only [true_iff]
  obtain ⟨c, hc, n₀, h⟩ := Erdos1031Plby.erdos_1031
  refine ⟨c, hc, ?_⟩
  filter_upwards [eventually_ge_atTop n₀] with n hn
  intro G hclique hindep
  have hhom : (Erdos1031Plby.homNum G : ℝ) < 10 * Real.log n := by
    unfold Erdos1031Plby.homNum
    rcases le_total G.cliqueNum G.indepNum with h' | h'
    · rw [max_eq_right h']; exact hindep
    · rw [max_eq_left h']; exact hclique
  obtain ⟨S, d, hL, hd, hd', hreg⟩ := h n hn G (by simp) hhom
  classical
  obtain ⟨T, rfl⟩ : ∃ T : Finset (Fin n), (T : Set (Fin n)) = S := ⟨S.toFinset, Set.coe_toFinset S⟩
  refine ⟨T, d, ?_, hd, ?_, ?_⟩
  · simpa using hL
  · simpa using hd'
  · intro v
    have := hreg v
    rw [← card_neighborSet_eq_degree] at this ⊢
    convert this
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«1031»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1031.lean [hunk 1]
```diff
@@ -0,0 +1,90 @@
...
+
+namespace Erdos1031
+
+open scoped Classical in
+/--
+`G` contains a non-trivial (neither empty nor complete) regular induced subgraph on at least
+`L` vertices.
+-/
+def HasLargeNontrivialRegularInduced {V : Type*} [Fintype V] (G : SimpleGraph V) (L : ℝ) : Prop :=
+  ∃ (S : Finset V) (d : ℕ), L ≤ S.card ∧ 0 < d ∧ d + 1 < S.card ∧ (G.induce S).IsRegularOfDegree d
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1031.lean:44]: Does HasLargeNontrivialRegularInduced overlap with 82.lean's IsRegularInduced; shared regular-induced-subgraph predicate (soft)?

File: FormalConjectures/ErdosProblems/1031.lean [hunk 2]
```diff
@@ -0,0 +1,90 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1031.lean:2]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```
